US07973164B2
N-(1-ethylpyrazol-4-yl)-2-[4-(6-fluoroquinolin-4-yloxy)-2-methoxyphenyl]acetamide
A mixture of 4-chloro-6-fluoroquinoline (0.11 g), N-(1-ethylpyrazol-4-yl)-2-(4-hydroxy-2-methoxyphenyl)acetamide (0.168 g), caesium carbonate (0.433 g) and DMF (3 ml) was stirred and heated to 120° C. for 2.5 hours. The solvent was evaporated and the residue was purified by column chromatography on silica using a solvent gradient of 100:0 to 93:7 of ethyl acetate and methanol as eluent. There was thus obtained the title compound (0.157 g); 1H NMR: (DMSOd6) 1.33 (t, 3H), 3.6 (s, 2H), 3.77 (s, 3H), 4.07 (q, 2H), 6.71 (d, 1H), 6.83 (m, 1H), 6.99 (d, 1H), 7.35 (d, 1H), 7.42 (s, 1H), 7.75 (m, 1H), 7.88 (s, 1H), 7.98 (m, 1H), 8.12 (m, 1H), 8.7 (d, 1H), 10.04 (s, 1H); Mass Spectrum: M+H+ 421.

reactant | 4-chloro-6-fluoroquinoline | 0.11 g | ClC1=CC=NC2=CC=C(C=C12)F | C9H5ClFN
reactant | N-(1-ethylpyrazol-4-yl)-2-(4-hydroxy-2-methoxyphenyl)acetamide | 0.168 g | C(C)N1N=CC(=C1)NC(CC1=C(C=C(C=C1)O)OC)=O | C14H17N3O3
reactant | caesium carbonate | 0.433 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | N-(1-ethylpyrazol-4-yl)-2-[4-(6-fluoroquinolin-4-yloxy)-2-methoxyphenyl]acetamide | 0.157 g | C(C)N1N=CC(=C1)NC(CC1=C(C=C(C=C1)OC1=CC=NC2=CC=C(C=C12)F)OC)=O | C23H21FN4O3
